US06326517B1
A 1000-ml autoclave made of stainless steel was charged with 400 g of 3,5-bis(trifluoromethy)bromobenzene, 227 ml of tetrahydrofuran, 1.53 g of palladium acetate, 5.37 g of triphenylphosphine, and 371 g of 25% ammonia water. Stirring for the content of the autoclave was started, upon which nitrogen gas displacement for the autoclave was made. Thereafter, the initial pressure of carbon monoxide gas was set at 3 kg/cm2, and then heating for the autoclave was started. After lapse of 1 hour, the inside temperature of the autoclave reached 100° C., at which the inside pressure of the autoclave was adjusted at 10 kg/cm2 upon introduction of carbon monoxide under pressure. During reaction, the inside temperature and pressure were respectively kept at 100° C. and 10 kg/cm2. After lapse of 11 hours, the autoclave was cooled, and the gas inside the autoclave was purged. A reaction mixture or liquid was taken out into a separatory funnel, in which the reaction liquid was separated into two layers. One (organic layer) of the two layers was sampled. A separately prepared 2000-ml flask provided with a stirrer was charged with 700 ml of water and heated at 80 to 85° C. in an oil bath. At this time, the above sampled organic layer was added dropwise into the flask. When distillation of tetrahydrofuran had been completed, heating for the flask was stopped so as to cool the content of the flask to room temperature. Crystals formed in the cooled flask was subjected to a suction filtration, and thereafter rinsed with 900 ml of cool water and then rinsed with 250 ml of toluene two times to obtain a toluene-rinsed solution. As a result, 241.3 g of 3,5-bis(trifluoromethyl)benzamide was obtained. 3,5-bis(trifluoromethyl)benzamide had a melting point ranging from 160 to 162° C.

reactant | 3,5-bis(trifluoromethy)bromobenzene | 400 g | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | tetrahydrofuran | 227 ml | O1CCCC1 | C4H8O
reactant | ammonia water | 371 g | O.N
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 1.53 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 5.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 700 ml | O | H2O
product | 3,5-bis(trifluoromethyl)benzamide | 241.3 g | FC(C=1C=C(C(=O)N)C=C(C1)C(F)(F)F)(F)F | C9H5F6NO
